US04478635
N-(2-Methoxycarbonylphenylsulfonyl)-N'-[4,6-bis-(difluoromethoxy)pyrimidin-2-yl]urea
3.62 g (0.0158 mole) of 2-methoxycarbonylphenylsulfonylisocyanate and 2.63 g (0.0116 mole) of 2-amino-4,6-bis-(difluoromethoxy)pyrimidine are reacted in 50 ml of dioxan as described in Example 1, affording the title compound with a melting point of 186°-188° C.

reactant | 2-methoxycarbonylphenylsulfonylisocyanate | 0.0158 mole, 3.62 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
reactant | 2-amino-4,6-bis-(difluoromethoxy)pyrimidine | 0.0116 mole, 2.63 g | NC1=NC(=CC(=N1)OC(F)F)OC(F)F | C6H5F4N3O2
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | N-(2-Methoxycarbonylphenylsulfonyl)-N'-[4,6-bis-(difluoromethoxy)pyrimidin-2-yl]urea | COC(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC(F)F)OC(F)F | C15H12F4N4O7S
